US05112988
A solution of benzoyl chloride (7.7 g) in anhydrous dichloromethane (10 cc) is added dropwise, in the course of 40 minutes and while the temperature of the reaction mixture is maintained at +5° C., to a solution, cooled to +5° C., of (RS)-6-aminomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane (16.2 g) and triethylamine (5.6 g) in anhydrous dichloromethane (150 cc). The reaction mixture is then stirred for 4 hours at +25° C., thereafter washed with distilled water (125 cc) cooled to +5° C., dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized in a mixture (50 cc) of acetonitrile and isopropyl ether (50:50 by volume). The crystals are drained and dried. (RS)-6-Benzamidomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane (16 g) is obtained in the form of white crystals. M.p. 162° C.

reactant | benzoyl chloride | 7.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | (RS)-6-aminomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane | 16.2 g | NCC1C2(OCCO2)CCCC1(C1=CC=CC=C1)C1=CC=CC=C1 | C21H25NO2
reactant | triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 150 cc | ClCCl | CH2Cl2
product | (RS)-6-Benzamidomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane | 16 g | C(C1=CC=CC=C1)(=O)NCC1C2(OCCO2)CCCC1(C1=CC=CC=C1)C1=CC=CC=C1 | C28H29NO3
